US04638068
Preparation of N-(1-cyano-1,2-dimethylpropyl)-2-(2-formyl-5-chloroanilino)maleimide
Pyridinium chlorochromate (4.4 g, 0.0204 mol) in methylene dichloride (20 ml) is added rapidly to a methylene chloride (20 ml) solution of N-(1-cyano-1,2-dimethylpropyl)-2-(5-chloro-2-hydroxymethylanilino)maleimide (4.75 g, 0.0136 mol). After 2 hours the dark reaction mixture is diluted with ether (20 ml) and a yellow precipitate is formed and is filtered off. This solid is redissolved in ethyl acetate:methylene chloride (1:1) and is passed through a silica gel column to give a yellow solid 4.31 g, (92%) with mp 80° C. (dec.).

reactant | Pyridinium chlorochromate | 0.0204 mol, 4.4 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | N-(1-cyano-1,2-dimethylpropyl)-2-(5-chloro-2-hydroxymethylanilino)maleimide | 0.0136 mol, 4.75 g | C(#N)C(C(C)C)(C)N1C(C(=CC1=O)NC1=C(C=CC(=C1)Cl)CO)=O | C17H18ClN3O3
solvent | methylene dichloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(1-cyano-1,2-dimethylpropyl)-2-(2-formyl-5-chloroanilino)maleimide | 4.31 g, 92% | C(#N)C(C(C)C)(C)N1C(C(=CC1=O)NC1=C(C=CC(=C1)Cl)C=O)=O | C17H16ClN3O3
